US08114874B2
N-(3-(2-((dimethylamino)methyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-(imidazo[1,2-a]pyrazin-3-ylethynyl)-4-methylbenzamide
The title compound was synthesized from 3-ethynylimidazo[1,2-a]pyrazine and N-(3-(2-((dimethylamino)methyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide in a manner similar to that described for Example 1. The product was obtained as a solid: 544 m/z (M+H).

reactant | 3-ethynylimidazo[1,2-a]pyrazine | C(#C)C1=CN=C2N1C=CN=C2 | C8H5N3
reactant | N-(3-(2-((dimethylamino)methyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide | CN(C)CC=1N(C=CN1)C=1C=C(C=C(C1)C(F)(F)F)NC(C1=CC(=C(C=C1)C)I)=O | C21H20F3IN4O
product | N-(3-(2-((dimethylamino)methyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-(imidazo[1,2-a]pyrazin-3-ylethynyl)-4-methylbenzamide | CN(C)CC=1N(C=CN1)C=1C=C(C=C(C1)C(F)(F)F)NC(C1=CC(=C(C=C1)C)C#CC1=CN=C2N1C=CN=C2)=O | C29H24F3N7O
